US07595403B2
The preparation of 3-Oxo-3H-benzo[d]isothiazole-2-carboxylic acid 4-methyl-benzylamide
Following the synthetic procedure of 6a as described in Example 1, compound 61 (54% yield) was synthesized from benzo[d]isothiazol-3-one and 4-methylbenzyl isocyanate as a white solid. mp 171-173° C.; IR(KBr) 3281, 1711, 1650, 1538 cm−1; 1H-NMR (DMSO-d6) δ2.27 (s, 3H), 4.48 (d, J=5.8 Hz, 2H), 7.14 (d, J=8.2 Hz, 2H), 7.24 (d, J=8.2 Hz, 2H), 7.48 (t, J=7.8 Hz, 1H), 7.78 (t, J=8.2 Hz, 1H), 7.93 (d, J=7.8 Hz, 1H), 8.01 (d, J=8.2 Hz, 1H), 9.22 (br t, J=5.8 Hz, 1H); ESIMS m/e 299 (M++1).

reactant | benzo[d]isothiazol-3-one | S1NC(C2=C1C=CC=C2)=O | C7H5NOS
reactant | 4-methylbenzyl isocyanate | CC1=CC=C(CN=C=O)C=C1 | C9H9NO
product | 3-Oxo-3H-benzo[d]isothiazole-2-carboxylic acid 4-methyl-benzylamide | CC1=CC=C(CNC(=O)N2SC3=C(C2=O)C=CC=C3)C=C1 | C16H14N2O2S
